### PR TITLE
Create bv_generalize tactic

### PR DESCRIPTION
**Pull request by oluwatimilehin**
Some examples:

1. 
```lean
theorem demo (x y : BitVec 8) : (0#8 - x ||| y) + y = (y ||| 0#8 - x) + y := by
  bv_generalize
  sorry
```
prints

```lean
theorem Generalize.demo.generalized_1_1 {w} (x y C1 : BitVec w)
                                 : (((C1 - x) ||| y) + y) = ((y ||| (C1 - x)) + y) := by sorry
```

2.

```lean
theorem demo2 (x y : BitVec 8) : x &&& 3#8 &&& 4#8 = 0#8 := by
  bv_generalize
  sorry
```

prints

```lean
theorem Generalize.demo2.generalized_1_1 {w} (x C1 C2 C3 : BitVec w) (h: (C1 &&& C2) = 0) 
                                : ((x &&& C1) &&& C2) = 0 := by sorry
```

Incorporates version changes in https://github.com/opencompl/lean-mlir/pull/1442

### CODE REVIEW

File: SSA/Experimental/Bits/Fast/Generalize.lean [hunk 1]
```diff
@@ -1447,72 +1457,124 @@ def generalize  (constantAssignments : List (Std.HashMap Nat BVExpr.PackedBitVec
...
+  let mut res := s! "theorem {name}" ++ " {w} " ++ s! "({String.intercalate " " params} : BitVec w)"
+
+  match generalization with
+  | .ite cond positive _ => res := res ++ s! " (h: {prettify cond displayNames}) : {prettify positive displayNames}"
+  | _ => res := res ++ s! " : {prettify generalization displayNames}"
+
+  res := res ++ s! " := by sorry"
+  pure res
+  -- match generalization with
+  -- | .gate
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalize.lean]: rm

File: SSA/Experimental/Bits/Fast/Generalize.lean [hunk 2]
```diff
@@ -1447,72 +1457,124 @@ def generalize  (constantAssignments : List (Std.HashMap Nat BVExpr.PackedBitVec
...
+    match_expr hExpr with
+    | Eq _ lhsExpr rhsExpr =>
+          let startTime ← Core.liftIOCore IO.monoMsNow
+
+          -- Parse the input expression
+          let initialState : ParsedBVExprState := default
+          let some parsedBVLogicalExpr ← (parseExprs lhsExpr rhsExpr targetWidth).run' initialState
+            | throwError "Unsupported expression provided"
+
+          logInfo m! "Parsed BVLogicalExpr state: {parsedBVLogicalExpr.state}"
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalize.lean]: Should it be hidden inside a config flag?

File: SSA/Experimental/Bits/Fast/Generalize.lean [hunk 3]
```diff
@@ -1447,72 +1457,124 @@ def generalize  (constantAssignments : List (Std.HashMap Nat BVExpr.PackedBitVec
...
+            processingWidth := originalWidth
+
+          if processingWidth != targetWidth then
+              -- Revert to the original width if necessary
+            bvLogicalExpr := changeBVLogicalExprWidth bvLogicalExpr processingWidth
+            logInfo m! "Using values for {bvLogicalExpr} in width {processingWidth}: {constantAssignments}"
+
+          let initialGeneralizerState : GeneralizerState :=
+            { startTime := startTime
+            , widthId := 9481
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalize.lean]: What's this?

File: SSA/Experimental/Bits/Fast/Generalize.lean [hunk 4]
```diff
@@ -1447,72 +1457,124 @@ def generalize  (constantAssignments : List (Std.HashMap Nat BVExpr.PackedBitVec
...
+            , timeout := timeoutMs
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalize.lean]: Is it related to the other timeout on line 504?

File: SSA/Experimental/Bits/Fast/Generalize.lean [hunk 5]
```diff
@@ -1447,72 +1457,124 @@ def generalize  (constantAssignments : List (Std.HashMap Nat BVExpr.PackedBitVec
...
+            , needsPreconditionsExprs   := []
+            , visitedSubstitutions      := Std.HashSet.emptyWithCapacity
+            , constantExprsEnumerationCache  := Std.HashMap.emptyWithCapacity
+            }
+
+          let generalizeRes ← (generalize constantAssignments).run' initialGeneralizerState
+          let mut variableDisplayNames := Std.HashMap.union parsedBVState.BVExprIdToFreeVar parsedBVState.symVarToDisplayName
+          variableDisplayNames := variableDisplayNames.insert initialGeneralizerState.widthId "w"
+
+          logInfo m! "All vars: {variableDisplayNames}"
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalize.lean]: Also behind a flag?

File: SSA/Experimental/Bits/Fast/Generalize.lean [hunk 6]
```diff
@@ -1447,72 +1457,124 @@ def generalize  (constantAssignments : List (Std.HashMap Nat BVExpr.PackedBitVec
...
+  bv_generalize
+  sorry
+
+theorem demo2 (x y : BitVec 8) :  (x ^^^ -1#8 ||| 7#8) ^^^ 12#8 = x &&& BitVec.ofInt 8 (-8) ^^^ BitVec.ofInt 8 (-13) := by
+  bv_generalize
+  sorry
+
+theorem demo3 (x y : BitVec 8) : x &&& 3#8 &&& 4#8 = 0#8 := by
+  bv_generalize
+  sorry
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalize.lean]: Should be guarded with `#guard_msgs`

**Review by ineol — CHANGES_REQUESTED** [review]

File: SSA/Experimental/Bits/Fast/Generalize.lean (hunk 3 above)
Comment (oluwatimilehin) [reply SSA/Experimental/Bits/Fast/Generalize.lean]: It's just an ID we use for the width when attempting to synthesize preconditions that incorporate the width. We map this to 'w' in the results.

File: SSA/Experimental/Bits/Fast/Generalize.lean (hunk 4 above)
Comment (oluwatimilehin) [reply SSA/Experimental/Bits/Fast/Generalize.lean]: No—this is the timeout for the overall process, while the other timeout is for individual SAT solver queries.

**Comment by tobiasgrosser** [comment]
@oluwatimilehin, we now have the latest lean and mathlib versions. Feel invited to rebase and propose for inclusion.

**Comment by ineol** [comment]
@oluwatimilehin Do we want to have all these test files in the repo?

**Comment by oluwatimilehin** [comment]
> @oluwatimilehin Do we want to have all these test files in the repo?

@ineol Removed them.

File: SSA/Experimental/Bits/Fast/Generalizer/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,359 @@
...
+  hash expr := expr.hashCode _
+
+instance : BEq (GenBVExpr w) where
+  beq := fun a b => toString a == toString b
+
+
+/--
+The semantics for `GenBVExpr`.
+-/
+def eval (assign : BVExpr.Assignment) : GenBVExpr w → BitVec w
```
Comment (ineol) [inline SSA/Experimental/Bits/Fast/Generalizer/Basic.lean]: Since we're not doing *proof* by reflection, I think we can use a HashMap instead of an `RArray` (aliased as `BVExpr.Assignment), this would also get us rid of the two sorries below.

**Review by ineol — COMMENTED** [review]
Except for the `RArray` remark I think we can merge

File: SSA/Experimental/Bits/Fast/Generalizer/Basic.lean (hunk 7 above)
Comment (oluwatimilehin) [reply SSA/Experimental/Bits/Fast/Generalizer/Basic.lean]: We still rely on some internal `eval` functions that expect an RArray like https://github.com/opencompl/lean-mlir/blob/12df28a4ceb916490fd3902d242fefe9d3c9ffbe/SSA/Experimental/Bits/Fast/Generalizer/Basic.lean#L156 and https://github.com/opencompl/lean-mlir/blob/12df28a4ceb916490fd3902d242fefe9d3c9ffbe/SSA/Experimental/Bits/Fast/Generalizer/Basic.lean#L169


If we switch, we'll end up duplicating those functions, but with a HashMap argument. Do you think that's a better option than having the sorries?

File: SSA/Experimental/Bits/Fast/Generalizer/GeneralizeTest.lean [hunk 8]
```diff
@@ -1,10 +1,23 @@
-import SSA.Experimental.Bits.Fast.Generalize
+import SSA.Experimental.Bits.Fast.Generalizer.Generalize
 
 set_option trace.profiler true
-set_option trace.profiler.threshold 1
+--set_option trace.profiler.threshold 1
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Generalizer/GeneralizeTest.lean]: Do we want to commit this commented option?

File: SSA/Experimental/Bits/Fast/Generalizer/Reflect.lean [hunk 9]
```diff
@@ -0,0 +1,276 @@
...
+namespace Generalize
+
+
+open Lean
+open Lean.Meta
+open Std.Sat
+open Std.Tactic.BVDecide
+
+
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Generalizer/Reflect.lean]:
```suggestion


```

File: SSA/Projects/InstCombine/scripts/proof-gen.py [hunk 10]
```diff
@@ -8,7 +8,7 @@
 
 def get_lines(msg):
     # Define the regex pattern to match error messages with line numbers
-    pattern = re.compile(r"info: .+?:(\d+):\d+: (theorem extracted.+?)(?=warning)", flags=re.DOTALL)
+    pattern = re.compile(r"info: .+?:(\d+):\d+: (theorem \S+\.extracted_\S+ .+?)(?=\nwarning:)", flags=re.DOTALL)
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/scripts/proof-gen.py]: Is this an independent PR?

File: SSA/Experimental/Bits/Fast/Generalizer/Tests/1.lean
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Generalizer/Tests/1.lean:1]: What are these renames about?

Comment (oluwatimilehin) [reply SSA/Experimental/Bits/Fast/Generalizer/Tests/1.lean:1]: I moved the files to a separate 'Generalize' directory.

**Comment by oluwatimilehin** [comment]
@tobiasgrosser I've addressed your comments and moved the evaluation script changes into an upcoming PR.
